US09023846B2
To a mixture of 2-(4-amino-6-chloro-3-nitro-pyridin-2-yloxy)-ethanol (4.40 g, 18.8 mmol, prepared as described in the previous step) and tert-butyl-chloro-dimethyl-silane (3.12 g, 20.7 mmol) in DCM (50 mL) was added imidazole (1.80 g, 26.4 mmol). After stirring at room temperature for 2 h, the resulting mixture was treated with saturated NH4Cl (50 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with H2O (3×50 mL), brine (50 mL), and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by flash chromatography on silica gel (0:100-20:80 EtOAc/hexane) to yield 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-6-chloro-3-nitro-pyridin-4-ylamine as a light yellow solid. 1H-NMR (400 MHz, CDCl3) δ: 6.35 (s, 1H), 6.17 (br. s., 2H), 4.49 (t, J=5.1 Hz, 2H), 3.96 (t, J=5.1 Hz, 2H), 0.88 (s, 9H), 0.08 (s, 6H).

reactant | 2-(4-amino-6-chloro-3-nitro-pyridin-2-yloxy)-ethanol | NC1=C(C(=NC(=C1)Cl)OCCO)[N+](=O)[O-] | C7H8ClN3O4
reactant | tert-butyl-chloro-dimethyl-silane | 20.7 mmol, 3.12 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 26.4 mmol, 1.80 g | N1C=NC=C1 | C3H4N2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-6-chloro-3-nitro-pyridin-4-ylamine | C(C)(C)(C)[Si](OCCOC1=NC(=CC(=C1[N+](=O)[O-])N)Cl)(C)C | C13H22ClN3O4Si
